US09233920B2
Similarly, the reaction was carried out under similar conditions: To a solution of 4-[3-[(Benzhydrylidene-amino)-tert-butoxycarbonyl-methyl]-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester (426 mg, one diastereoisomer, obtained in example P12) in acetone (12 mL) was added hydrochloric acid (6 mL, 10%) and the solution was stirred at ambient temperature for 3 hours. Water was then added and the reaction mixture was extracted with ethylacetate and the combined organic fractions were dried over sodium sulfate. The crude product was purified by flash chromatography (0% to 05% dichloromethane in heptane) to afford tert-butyl 5-(4-tert-butoxycarbonyl-3-methyl-phenyl)-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-2,4-dihydropyrrole-2-carboxylate (248 mg) as a white solid. 19F NMR (376 MHz, CDCl3) δ −75.20 ppm (1 diastereoisomers). Chiral HPLC analysis (Chiralpack AS-RH, acetonitrile:water:methanol=55:5:40, 1 ml/min, retention time 22.87 minutes (minor enantiomer) and 25.52 minutes (major isomer) indicated that the reaction proceeded with little enantioselectivity.

reactant | 4-[3-[(Benzhydrylidene-amino)-tert-butoxycarbonyl-methyl]-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester | 426 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(CC(C(F)(F)F)(C1=CC(=CC(=C1)Cl)Cl)C(C(=O)OC(C)(C)C)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C)=O | C41H40Cl2F3NO5
reactant | hydrochloric acid | 6 mL | Cl | ClH
reactant | Water | O | H2O
solvent | acetone | 12 mL | CC(=O)C | C3H6O
product | tert-butyl 5-(4-tert-butoxycarbonyl-3-methyl-phenyl)-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-2,4-dihydropyrrole-2-carboxylate | 248 mg | C(C)(C)(C)OC(=O)C1=C(C=C(C=C1)C=1CC(C(N1)C(=O)OC(C)(C)C)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C | C28H30Cl2F3NO4
